US06444685B1
1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester
The title compound was prepared from DL-proline, isopropanol, and 4-fluorobezenesulfonyl chloride according to the procedure of Intermediate 48 as a clear oil; 1H NMR (CDCl3) δ 1.21-1.28 (m, 6H), 1.80-1.85 (m, 1H), 1.95-2.10 (m, 3H), 3.31-3.49 (m, 2H), 4.26-4.36 (m, 1H), 4.95-5.08 (m, 1H), 7.15-7.23 (m, 2H), 7.89-8.08 (m, 2H); MS (ES) m/z 315.8 (MH+); HRMS for C14H18FNO4S: 338.0830 (M+Na).

reactant | DL-proline | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | 4-fluorobezenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F | C14H18FNO4S
